US07855294B2
Tert-butyl (3RS,4RS)-4-(2-chlorophenyl)-3-hydroxypiperidine-1-carboxylate was obtained as a colorless amorphous substance in the same manner as in Production Example 12-2, for which, however, the compound obtained in the above 2 was used in place of 1-benzyl-4-o-tolyl-1,2,3,6-tetrahydropyridine used in Production Example 12-2 and the step of converting the product into its hydrochloride was omitted. In a nitrogen atmosphere, 4 N hydrogen chloride-dioxane solution was added to the above compound, and stirred at room temperature for 1.5 hours. The solvent was evaporated off under reduced pressure, aqueous saturated sodium hydrogencarbonate solution was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated saline water, and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure to obtain (3RS,4RS)-4-(2-chlorophenyl)piperidin-3-ol as a white solid.

reactant | 1-benzyl-4-o-tolyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(C=CC=C1)C | C19H21N
reactant | hydrochloride | Cl | ClH
reactant | hydrogen chloride dioxane | 4 N | Cl.O1CCOCC1
product | (3RS,4RS)-4-(2-chlorophenyl)piperidin-3-ol | ClC1=C(C=CC=C1)C1C(CNCC1)O | C11H14ClNO
